US08383615B2
Synthesis of (S)-1-(Propane-1-sulfonyl)-azetidine-2-carboxylic acid (5-tert-butyl-isoxazol-3-yl)-amide (Example 45)
To a solution of (S)-Azetidine-2-carboxylic acid (5-tert-butyl-isoxazol-3-yl)-amide; hydrochloride (100 mg; 0.385 mmol) in DMF (1 mL) is added n-propylsulfonyl chloride (0.043 mL; 0.385 mmol) and N,N-diisopropylethylamine (0.201 mL; 1.155 mmol). The reaction mixture is left stirring at room temperature for 18 hours. After this time, the reaction mixture is diluted with ethyl acetate and washed with water twice then brine, dried over Na2SO4, filtered and concentrated in vacuo. Purification by flash chromatography on silica gel using ethyl acetate/hexanes provides the title compound, m/z 330 [M+H+].

reactant | (S)-Azetidine-2-carboxylic acid (5-tert-butyl-isoxazol-3-yl)-amide | C(C)(C)(C)C1=CC(=NO1)NC(=O)[C@H]1NCC1 | C11H17N3O2
reactant | hydrochloride | 0.385 mmol, 100 mg | Cl | ClH
reactant | n-propylsulfonyl chloride | 0.385 mmol, 0.043 mL | C(CC)S(=O)(=O)Cl | C3H7ClO2S
reactant | N,N-diisopropylethylamine | 1.155 mmol, 0.201 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-1-(Propane-1-sulfonyl)-azetidine-2-carboxylic acid (5-tert-butyl-isoxazol-3-yl)-amide | C(C)(C)(C)C1=CC(=NO1)NC(=O)[C@H]1N(CC1)S(=O)(=O)CCC | C14H23N3O4S
